US09102664B2
Preparation of Benzylated Posaconazole: [Form-M]
Added 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl) piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one compound of formula-20 (35 g) to a mixture of dimethylsulfoxide (350 ml) and sodium hydroxide (3.4 g) and water (7 ml) at 25-30° C. and stirred for 45 minutes at 25-30° C. ((3S,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluorophenyl)tetrahydrofuran-3-yl)methyl-4-methylbenzenesulfonate compound of formula-10 (31.5 g) was added to the above reaction mixture at 25-30° C. and heated the reaction mixture to 45° C. and stirred for 5 hours at the same temperature. After completion of the reaction, cooled the reaction mixture to room temperature and water was added to the reaction mixture. The reaction mixture was extracted twice with ethyl acetate. Adjusted the pH of the reaction mixture with aqueous hydrochloric acid solution. The organic layers were washed with sodium chloride solution. Distilled off the solvent under reduced pressure to get the compound as residue. Dissolved the obtained residue in isopropanol (320 ml) at 45-50° C. Filtered the solid, washed with isopropanol and dried aerially to get the title compound. Yield: 98%; Purity by HPLC: 99.5%; M.R: 117° C.-119° C.

reactant | 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl) piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one | C(C1=CC=CC=C1)O[C@@H](C)[C@H](CC)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C30H35N5O3
reactant | dimethylsulfoxide | 350 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 3.4 g | [OH-].[Na+]
reactant | ((3S,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluorophenyl)tetrahydrofuran-3-yl)methyl-4-methylbenzenesulfonate | N1(N=CN=C1)C[C@@]1(C[C@@H](CO1)COS(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C=C1)F)F | C21H21F2N3O4S
solvent | isopropanol | 320 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | water | 7 ml | O | H2O
product | Posaconazole | Yield: 98% | CC[C@@H]([C@H](C)O)N1C(=O)N(C=N1)C=2C=CC(=CC2)N3CCN(CC3)C=4C=CC(=CC4)OC[C@H]5C[C@](OC5)(CN6C=NC=N6)C=7C=CC(=CC7F)F | C37H42F2N8O4
